US08314091B2
N-tert-Butyl-3-((4-(3-fluoro-4-(3-(5-(trifluoromethyl)pyridin-2-yl)ureido)benzoyl)piperazin-1-yl)methyl)benzamide
5-(Trifluoromethyl)pyridin-2-amine (0.485 mmol, 0.079 g) and N-ethyl-N-isopropylpropan-2-amine (0.727 mmol, 0.120 mL, 0.094 g) were added to a stirred solution of bis(trichloromethyl) carbonate (0.160 mmol, 0.047 g) in dichloromethane (10 mL). The reaction was stirred for 3 hours at room temperature. 3-((4-(4-Amino-3-fluorobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide (0.242 mmol, 0.1 g) was added and the reaction stirred for 30 minutes. The reaction was heated in the microwave at 120° C. for 10 minutes. The reaction was concentrated under vacuum and purified by acidic reverse phase HPLC to afford the title compound (50 mg).

reactant | 5-(Trifluoromethyl)pyridin-2-amine | 0.485 mmol, 0.079 g | FC(C=1C=CC(=NC1)N)(F)F | C6H5F3N2
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.727 mmol, 0.120 mL, 0.094 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | bis(trichloromethyl) carbonate | 0.160 mmol, 0.047 g | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | 3-((4-(4-Amino-3-fluorobenzoyl)piperazin-1-yl)methyl)-N-tert-butylbenzamide | 0.242 mmol, 0.1 g | NC1=C(C=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)C=C1)F | C23H29FN4O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-tert-Butyl-3-((4-(3-fluoro-4-(3-(5-(trifluoromethyl)pyridin-2-yl)ureido)benzoyl)piperazin-1-yl)methyl)benzamide | 50 mg | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1CCN(CC1)C(C1=CC(=C(C=C1)NC(=O)NC1=NC=C(C=C1)C(F)(F)F)F)=O)=O | C30H32F4N6O3
